* CDAC 0.5 LSB Settling Time Testbench

* ============================================================
* GF180MCU device models (Paths corrected from your working TB)
* ============================================================
.include "$PDK_ROOT/gf180mcuD/libs.tech/ngspice/design.ngspice"
.lib "$PDK_ROOT/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.lib "$PDK_ROOT/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" cap_mim

* Required nominal values for cap_mim corner/mismatch scaling params
.param mim_corner_2p0fF=1
.param mc_c_cox_2p0fF=0

* Include your extracted netlist containing the 'caps' and 'transistors' subckts
.include "caps.spice" 

* ==========================================
* Power Supplies & References
* ==========================================
Vdd VDD 0 3.3
Vgnd GND 0 0

* Note: Using 1.8V for VREF as indicated in your previous TB notes
Vref VREF 0 1.8

* Input Voltage (Vin)
* Setting Vin to 0V so the CDAC samples 0V, maximizing the voltage 
* swing when the MSB switches to VREF.
Vin Vin 0 0.0

* ==========================================
* Control Signals (Stimulus)
* ==========================================
* phi_s: Active-low PMOS sampling switch
* Samples from 0ns to 10ns, transitions to Hold (3.3V) at 10ns.
Vphi_s phi_s 0 PULSE(0 3.3 10n 100p 100p 40n 100n)

* MSB Data Switch (Dx<7> and Dx_b<7>)
* Switches from GND to VREF at 12ns (after sampling is complete)
VDx7   Dx_7   0 PULSE(0 3.3 12n 100p 100p 40n 100n)
VDxb7  Dx_b_7 0 PULSE(3.3 0 12n 100p 100p 40n 100n)

* Static LSB Data Switches (Dx<0:6> tied low, Dx_b<0:6> tied high)
Vdx_static   Dx_static   0 DC 0
Vdx_b_static Dx_b_static 0 DC 3.3

* ==========================================
* Device Under Test (DUT) Instantiation
* ==========================================
* Pin order matches your 8-bit generated .subckt line:
X1
+ Dx_b_static Dx_b_static Dx_b_static Dx_b_static Vin Dx_b_static Dx_b_static GND Dx_b_static Dx_b_7
+ VREF Dx_static phi_s Dx_static Dx_static VDD Dx_static Vx Dx_static Dx_static Vx_lsb Dx_static Dx_7
+ caps

* ==========================================
* Analysis and Automated Measurement
* ==========================================
.control
    * Run a 30ns transient simulation with 10ps resolution
    tran 10p 30n
    
    * Save raw data so you can view the waveforms in GTKWave/Gaw
    write cdac_settling.raw
    
    * 1. Find the final settled voltage of the MSB array (Vx)
    meas tran vfinal FIND V(Vx) AT=29n
    
    * 2. Calculate the 0.5 LSB threshold 
    * Assuming 8-bit with 1.8V VREF: (1.8V / 256) / 2 = 3.515mV
    let vthresh = vfinal - 0.003515
    
    * 3. Measure the exact time the MSB logic triggers (crosses VDD/2 = 1.65V)
    meas tran t_start WHEN V(Dx_7)=1.65 RISE=1
    
    * 4. Measure the exact time Vx crosses into the 0.5 LSB settling window
    meas tran t_settled WHEN V(Vx)=vthresh RISE=1
    
    * 5. Calculate and print the delta
    let t_settling_time = t_settled - t_start
    print t_settling_time
.endc
.end